US04319916
3-Dichloroacetyl-1-ethyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone
A 0.9 g. portion of 3-acetyl-1-ethyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone was combined with 0.8 g. of N-chlorosuccinimide in 125 ml. of chloroform. The mixture was stirred at reflux overnight, and was then cooled, washed with 1 N sodium hydroxide solution and then with saturated sodium chloride solution, and evaporated under vacuum to obtain 0.9 g. of an orange glass. The residue was chromatographed on a 350 g. silica gel column with 1:10 ethyl acetate:chloroform as the eluting solvent. The product-containing fractions were combined and evaporated under vacuum. The residue was then triturated under hexane to obtain 0.25 g. of the desired product, m.p. 108°-110°. Nmr analysis in DMSOd6 showed peaks at δ7.6-8.4 (m, 7H, aromatic and CHCl2); 4.0-4.4 (q, 2H, N--CH2); 1.4-1.6 (t, 3H, CH2CH3).

reactant | 3-acetyl-1-ethyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone | C(C)(=O)C1=CN(C=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)CC | C16H14F3NO2
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-Dichloroacetyl-1-ethyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone | ClC(C(=O)C1=CN(C=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)CC)Cl | C16H12Cl2F3NO2
